US04966918
To a hot solution of 1,8-dimethoxy-3-methyl-9,10-anthraquinone (4.5 g, 16 mM) and 1,3-dibromo-5,5-dimethylhydantoin (2.75 g, 19.2 mM) in carbon tetrachloride (500 mL) is added benzoyl peroxide (0.7 g), and the mixture is heated under reflux for 5 hours. The mixture is allowed to cool to room temperature. Insoluble hydantoin is removed by filtration, the filtrate is concentrated to dryness, and the residue recrystallized twice from ethyl acetate to give 3-bromomethyl-1,8-dimethoxy-9,10-anthraquinone (3.3 g, 57%), mp 176-178° C. 1H NMR (CDCl3) δ: 4.01 (3H, s, OMe), 4.03 (3H, s, OMe), 4.52 (2H, s, CH2Br), 7.26-7.84 (5H, m, aromatic H). Analyses (C17H13BrO4). Calculated: C, 56.53; H, 3.63; Br, 22.12. Found: C, 56.48; H, 3.67; Br, 21.93.

reactant | 1,8-dimethoxy-3-methyl-9,10-anthraquinone | 16 mM, 4.5 g | COC1=CC(=CC=2C(C3=CC=CC(=C3C(C12)=O)OC)=O)C | C17H14O4
reactant | 1,3-dibromo-5,5-dimethylhydantoin | 19.2 mM, 2.75 g | BrN1C(=O)N(C(=O)C1(C)C)Br | C5H6Br2N2O2
reactant | benzoyl peroxide | 0.7 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 500 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-bromomethyl-1,8-dimethoxy-9,10-anthraquinone | 3.3 g, 57% | BrCC=1C=C(C=2C(C3=C(C=CC=C3C(C2C1)=O)OC)=O)OC | C17H13BrO4
